US07838483B2
To an ice-water cooled mixture of 2-ethoxyethanol (1 g, 11.1 mmol) and Triton B (40% in MeOH, 0.138 g, 0.33 mmol) was added acrylonitrile (0.618 g, 11.6 mmol). The mixture was stirred at room temperature for 24 hours. It was then neutralized with 0.1 M HCl (3.3 cm3) and extracted with CH2Cl2 (2×10 cm3). The extracts were concentrated under reduced pressure and the residue was Kugelrohr-distilled to give the product 3-(2-ethoxyethoxy)propanenitrile (1.20 g, 75.5%) as a colourless oil, bp 100-130° C./20 Torr.

reactant | 2-ethoxyethanol | 11.1 mmol, 1 g | C(C)OCCO | C4H10O2
reactant | acrylonitrile | 11.6 mmol, 0.618 g | C(C=C)#N | C3H3N
reactant | HCl | 0.1 M, 3.3 cm3 | Cl | ClH
solvent | MeOH | CO | CH4O
product | 3-(2-ethoxyethoxy)propanenitrile | 1.20 g, 75.5% | C(C)OCCOCCC#N | C7H13NO2
